US09233966B2
Preparation of (1R,2R)-2-(3,4-Difluorophenyl)Cyclopropanecarbonitrile (Formula XIIa)
Potassium t-butoxide (21.5 g) and toluene (150 mL) were charged into a reaction vessel. Diethyl cyanomethylphosphonate (34.8 g) was added to the mixture with stirring and mixture was heated to 70-80° C. Then a mixture of (2S)-2-(3,4-difluorophenyl) oxirane (29 g) in toluene (150 mL) was slowly added to above reaction mass at 75-80° C. over a period of 30 minutes and the mixture was maintained for 11-12 hours for completion of reaction as monitored by TLC. After completion of reaction, mixture was cooled to 25-30° C. and water (300 mL) was added, the layers were separated. The aqueous layer was back extracted with toluene (150 mL). The organic layers were combined and washed with water (300 mL). The combined organic layer was subjected to complete distillation under vacuum at below 55-60° C. to afford the compound which was purified by column chromatography to afford the title compound of about 97% HPLC purity.

reactant | Potassium t-butoxide | 21.5 g | CC(C)([O-])C.[K+]
reactant | Diethyl cyanomethylphosphonate | 34.8 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | (2S)-2-(3,4-difluorophenyl) oxirane | 29 g | FC=1C=C(C=CC1F)[C@@H]1OC1 | C8H6F2O
reactant | water | 300 mL | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,2R)-2-(3,4-Difluorophenyl)Cyclopropanecarbonitrile | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)C#N | C10H7F2N
